US04339440
11.57 g (50 mmoles) of tert.-butoxycarbonyl-D-norleucine and 5.6 ml (50 mmoles) of N-methylmorpholine are dissolved in 50 ml of dimethyl formamide. The solution is cooled to -10° C., and 6.6 ml (50 mmoles) of isobutyl chloroformate are added with stirring. After 10 minutes the mixture is cooled to -20° C., and a solution of 18.6 g (55 mmoles) of glycine benzyl ester p-toluolsulfonate and 6.1 ml (55 mmoles) of N-methylmorpholine in 80 ml of dimethyl formamide, cooled to -20° C., is added. The reaction mixture is stirred at -10° C. for 10 minutes, at 0° C. for one hour and then at room temperature overnight. The mixture is filtered, and the filtrate is evaporated under reduced pressure. The residue is dissolved in a mixture of 300 ml of ethyl acetate and 100 ml of water. The ethyl acetate phase is separated, washed successively with 5% aqueous sodium hydrocarbonate solution (2×60 ml), water (2×60 ml), 1 n hydrochloric acid cooled with ice water (2×60 ml) and water (2×60 ml) again, dried over sodium sulfate, decolourized with carbon, filtered, and the filtrate is evaporated under reduced pressure. The crystalline residue is triturated with diisopropyl ether, the solid is filtered off, washed with diisopropyl ether and dried. 14.65 g (76.9%) of tert.-butoxycarbonyl-D-norleucyl-glycine benzyl ester are obtained; m.p.: 85°-86° C., Rf13 =0.75-0.85, [α]D20 =+12.2° (c=1%, in dimethyl formamide).

reactant | tert.-butoxycarbonyl-D-norleucine | 50 mmoles, 11.57 g | C(C)(C)(C)OC(=O)N[C@H](CCCC)C(=O)O | C11H21NO4
reactant | N-methylmorpholine | 50 mmoles, 5.6 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 50 mmoles, 6.6 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | glycine benzyl ester | 55 mmoles, 18.6 g | C(C1=CC=CC=C1)OC(CN)=O | C9H11NO2
reactant | N-methylmorpholine | 55 mmoles, 6.1 ml | CN1CCOCC1 | C5H11NO
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 80 ml | CN(C=O)C | C3H7NO
product | tert.-butoxycarbonyl-D-norleucyl-glycine benzyl ester | 14.65 g, 76.9% | C(C1=CC=CC=C1)OC(CNC([C@H](NC(=O)OC(C)(C)C)CCCC)=O)=O | C20H30N2O5
